US08633186B2
2-(4-(tert-butyldimethylsilyloxy)butoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 4-(tert-butyldimethyl-silyloxy)butan-1-ol and 2,6-dinitrobenzonitrile in 25% yield as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 0.01 (s, 6H), 0.81-0.83 (m, 9H), 1.61-1.66 (m, 2H), 1.76-1.81 (m, 2H), 3.63 (t, J=6.8 Hz, 2H), 4.26 (t, J=6.4 Hz, 2H), 7.68-7.70 (m, 1H), 7.84-7.89 (m, 2H).

reactant | 4-(tert-butyldimethyl-silyloxy)butan-1-ol | C(C)(C)(C)[Si](OCCCCO)(C)C | C10H24O2Si
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(4-(tert-butyldimethylsilyloxy)butoxy)-6-nitrobenzonitrile | 25% yield | [Si](C)(C)(C(C)(C)C)OCCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C17H26N2O4Si
